US06350749B1
A mixture of 6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazol-4-one (1.05 g), aminoguanidine hydrochloride (0.47 g), concentrated hydrochloric acid (0.44 ml), water (0.44 ml) and ethanol (70 ml) was refluxed for 6 hours. Under reduced pressure, the solvent was evaporated, and to the residue was added sodium hydrogen carbonate solution. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 4-guanidinoimino-6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazole (0.6 g) as amorphous. To a solution of 4-guanidinoimino-6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazole (0.3 g) in ethanol (10 ml) was added methanesulfonic acid (0.18 g), and the mixture was concentrated. The resulting crystals were recrystallized from water-ethanol to give 4-guanidinoimino-6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazole methanesulfonate (Compound 22) (0.28 g).

reactant | 6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazol-4-one | 1.05 g | ClC1=C(C=CC=C1)C1CC(C=2C(=NNC2C1)C)=O | C14H13ClN2O
reactant | aminoguanidine hydrochloride | 0.47 g | C(=N)(N)NN.Cl
reactant | hydrochloric acid | 0.44 ml | Cl | ClH
reactant | water | 0.44 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-guanidinoimino-6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazole | 0.6 g | N(C(=N)N)N=C1C=2C(=NNC2CC(C1)C1=C(C=CC=C1)Cl)C | C15H17ClN6
